US07981879B2
To a solution of 2-{2-(benzyloxy)-1-[(2-chloroethyl)amino]ethyl}-N-(4-fluorobenzyl)-5,6-dihydroxypyrimidine-4-carboxamide in dry 1,4-dioxane under nitrogen atmosphere potassium tert-butoxide (3 eq.) was added in one portion. The resulting suspension was aged at 120° C. for 2 hours. The reaction mixture was cooled to about 15° C. then acidified with trifluoroacetic acid to pH=3-4. The solvent was removed under reduced pressure and the residue, dissolved in the minimum amount of MeOH, was applied on cation-exchange resin cartridges (Varian MEGA BOND ELUTE SCX), the cartridges washed with MeOH and the crude product was eluted with 1M ammonia in methanol. The pooled eluants were concentrated to dryness under reduced pressure to get 9-[(benzyloxy)methyl]-N-(4-fluorobenzyl)-3-hydroxy-4-oxo-6,7,8,9-tetrahydro-4H-pyrazino[1,2-a]pyrimidine-2-carboxamide as a brown oil (85% yield). The crude product was purified by RP HPLC (C18, 5 μM, H2O/MeCN with 1% of TFA as eluant) and product was obtained after freeze drying of appropriate fractions.

reactant | 2-{2-(benzyloxy)-1-[(2-chloroethyl)amino]ethyl}-N-(4-fluorobenzyl)-5,6-dihydroxypyrimidine-4-carboxamide | C(C1=CC=CC=C1)OCC(NCCCl)C1=NC(=C(C(=N1)C(=O)NCC1=CC=C(C=C1)F)O)O | C23H24ClFN4O4
reactant | potassium tert-butoxide | 3 eq. | CC(C)([O-])C.[K+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 9-[(benzyloxy)methyl]-N-(4-fluorobenzyl)-3-hydroxy-4-oxo-6,7,8,9-tetrahydro-4H-pyrazino[1,2-a]pyrimidine-2-carboxamide | 85% yield | C(C1=CC=CC=C1)OCC1NCCN2C1=NC(=C(C2=O)O)C(=O)NCC2=CC=C(C=C2)F | C23H23FN4O4
